US08957070B2
N-(2-{[2-(Methoxyacetyl)hydrazino]carbonyl}-1H-indol-7-yl)-N-methylthiophene-2-sulfonamide
To a mixture of 7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid (0.40 g), 1H-1,2,3-benzotriazol-1-ol (0.19 g) and N,N-dimethylformamide (10 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.28 g) at room temperature. The mixture was stirred for 10 min, and methoxyacetohydrazide (0.19 g) was added. The reaction mixture was stirred at room temperature for 2 hr, water was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained residue was subjected to silica gel column chromatography and the title compound (0.29 g, yield 58%) was obtained as colorless crystals from a fraction eluted with ethyl acetate. melting point 148-149° C.

reactant | 7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 0.40 g | CN(C=1C=CC=C2C=C(NC12)C(=O)O)S(=O)(=O)C=1SC=CC1 | C14H12N2O4S2
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.19 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.28 g | Cl.CN(CCCN=C=NCC)C
reactant | methoxyacetohydrazide | 0.19 g | COCC(=O)NN | C3H8N2O2
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-(2-{[2-(Methoxyacetyl)hydrazino]carbonyl}-1H-indol-7-yl)-N-methylthiophene-2-sulfonamide | 0.29 g, yield 58% | COCC(=O)NNC(=O)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C17H18N4O5S2
